### PR TITLE
[Merged by Bors] - chore(Logic/Relation): use `≤` to spell subrelation

### PR DESCRIPTION
**Pull request by SnirBroshi**
Replace every `∀ x y, r x y → r' x y` with `r ≤ r'`

---

NOTE: this PR began as an effort to use `Subrelation` since `≤` wasn't available in this file, but it was agreed on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2330526.20use.20Subrelation.20in.20Mathlib.2ELogic.2ERelation/with/546572676) to instead make `≤` available there.

- [x] depends on: #40658

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by vihdzp — APPROVED** [review]
Sure. If we're going to have all of these defs about relations we might as well actually use them!

File: Mathlib/CategoryTheory/Limits/Types/Shapes.lean [hunk 1]
```diff
@@ -518,7 +518,7 @@ theorem coequalizer_preimage_image_eq_of_preimage_eq (π : Y ⟶ Z) (e : f ≫ 
       (mono_iff_injective
             (h.coconePointUniqueUpToIso (coequalizerColimit f g).isColimit).inv).mp
         inferInstance e'
-    exact (eqv.eqvGen_iff.mp (Relation.EqvGen.mono lem (Quot.eqvGen_exact e'))).mp hy
+    exact (eqv.eqvGen_iff.mp (Relation.EqvGen.mono @lem (Quot.eqvGen_exact e'))).mp hy
```
Comment (thorimur) [inline Mathlib/CategoryTheory/Limits/Types/Shapes.lean]: Let's use `Subrelation` from the beginning; then we don't need `@`. :)
```suggestion
  have lem : Subrelation (Function.Coequalizer.Rel f g) (· ∈ U ↔ · ∈ U) := by
    rintro _ _ ⟨x⟩
    change x ∈ f ⁻¹' U ↔ x ∈ g ⁻¹' U
    rw [H]
  have eqv : _root_.Equivalence fun x y => x ∈ U ↔ y ∈ U := by
    aesop (add safe constructors _root_.Equivalence)
  ext
  constructor
  · rw [←
      show _ = π from
        h.comp_coconePointUniqueUpToIso_inv (coequalizerColimit f g).2
          WalkingParallelPair.one]
    rintro ⟨y, hy, e'⟩
    dsimp at e'
    replace e' :=
      (mono_iff_injective
            (h.coconePointUniqueUpToIso (coequalizerColimit f g).isColimit).inv).mp
        inferInstance e'
    exact (eqv.eqvGen_iff.mp (Relation.EqvGen.mono lem (Quot.eqvGen_exact e'))).mp hy
```

**Comment by thorimur** [comment]
Thanks for this PR! :) I'd like to give this a quick review, but just a quick question first: has this refactor to `Subrelation` been  discussed on Zulip?

This refactor makes sense to me personally (and I'm glad it makes sense to Violeta as well!) but if it hasn't been discussed yet, it would be nice to reach some consensus and give people an opportunity to comment, especially if this will have ripple effects across Mathlib. It does change the argument plicity, after all (requiring some new `@`s), and suggests that maybe some other theorems in Mathlib should (in the future) be stated (and named) in terms of `Subrelation` too.

If it has already been discussed, linking the Zulip thread in the commit message will help keep changes like this in context. :)

**Comment by SnirBroshi** [comment]
> has this refactor to `Subrelation` been discussed on Zulip?

Not yet, I've opened a topic with my thoughts: https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2330526.20use.20Subrelation.20in.20Mathlib.2ELogic.2ERelation/with/546572676

**Comment by thorimur** [comment]
Awesome, thanks! :) (I'll mark this `awaiting-zulip` for the time being.)

**Comment by vihdzp** [comment]
To recap what's been said on Zulip, I think we should rather move the ≤ instance on pi types to a more basic file, and remove all use of `Subrelation`.

File: Mathlib/Logic/Relation.lean [hunk 2]
```diff
@@ -237,13 +238,13 @@ lemma map_symmetric {r : α → α → Prop} (hr : Symmetric r) (f : α → β)
   rintro _ _ ⟨x, y, hxy, rfl, rfl⟩; exact ⟨_, _, hr hxy, rfl, rfl⟩
 
 lemma map_transitive {r : α → α → Prop} (hr : Transitive r) {f : α → β}
-    (hf : Subrelation ((· = ·) on f) r) :
+    (hf : ((· = ·) on f) ≤ r) :
```
Comment (vihdzp) [inline Mathlib/Logic/Relation.lean:60]: Does this work? Likewise below.
```suggestion
    (hf : (· = ·) on f ≤ r) :
```

**Review by vihdzp — APPROVED** [review]

File: Mathlib/Logic/Relation.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean:60]: No, that syntax has pretty low precedence. Though if we really dislike the parens we can avoid the syntax:
```suggestion
    (hf : (· = ·).onFun f ≤ r) :
```

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -54,7 +55,7 @@ the bundled version, see `Rel`.
 
 open Function
 
-variable {α β γ δ ε ζ : Sort*}
+variable {α β γ δ ε ζ : Type*}
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean:57]: Reverts #34391 because `Pi.hasLe` doesn't support sorts

Comment (vihdzp) [reply Mathlib/Logic/Relation.lean:57]: This seems reasonable to me, given we weren't even using this generality.

File: Mathlib/Logic/Relation.lean [hunk 4]
```diff
@@ -242,13 +249,13 @@ lemma map_symmetric {r : α → α → Prop} (hr : Symmetric r) (f : α → β)
...
 lemma map_transitive {r : α → α → Prop} (hr : Transitive r) {f : α → β}
-    (hf : ∀ x y, f x = f y → r x y) :
+    (hf : ((· = ·) on f) ≤ r) :
     Transitive (Relation.Map r f f) := by
   rintro _ _ _ ⟨x, y, hxy, rfl, rfl⟩ ⟨y', z, hyz, hy, rfl⟩
   exact ⟨x, z, hr hxy <| hr (hf _ _ hy.symm) hyz, rfl, rfl⟩
 
 lemma map_equivalence {r : α → α → Prop} (hr : Equivalence r) (f : α → β)
-    (hf : f.Surjective) (hf_ker : ∀ x y, f x = f y → r x y) :
+    (hf : f.Surjective) (hf_ker : ((· = ·) on f) ≤ r) :
```
Comment (Vierkantor) [inline Mathlib/Logic/Relation.lean]: I'm not so sure about this change: we don't want to spell `Function.Injective` as `((· = ·) on f) ≤ (· = ·)` either. I think we should only change where there is already a single relation (e.g. `r`, `≤`, `Relation.Map r f f on f`), and so revert these lines.

File: Mathlib/Logic/Relation.lean [hunk 5]
```diff
@@ -591,40 +597,41 @@ theorem transitive_transGen : Transitive (TransGen r) := fun _ _ _ ↦ TransGen.
...
-theorem TransGen.closed {p : α → α → Prop} :
-    (∀ a b, r a b → TransGen p a b) → TransGen r a b → TransGen p a b :=
+theorem TransGen.closed {p : α → α → Prop} : r ≤ TransGen p → TransGen r ≤ TransGen p :=
   TransGen.lift' id
 
-lemma TransGen.closed' {P : α → Prop} (dc : ∀ {a b}, r a b → P b → P a)
-    {a b : α} (h : TransGen r a b) : P b → P a :=
-  h.head_induction_on dc fun hr _ hi ↦ dc hr ∘ hi
+lemma TransGen.closed' {P : α → Prop} (dc : r ≤ (swap (· → ·) on P)) :
+    TransGen r ≤ (swap (· → ·) on P) :=
```
Comment (Vierkantor) [inline Mathlib/Logic/Relation.lean]: I would prefer `TransGen p (f a) (f b)` over `TransGen p on f` (but can live with either form). But especially this statement is too hard to read now.

File: Mathlib/Logic/Relation.lean [hunk 6]
```diff
@@ -839,12 +847,12 @@ open Relation
 
 variable {r : α → α → Prop} {a b : α}
 
-theorem Quot.eqvGen_exact (H : Quot.mk r a = Quot.mk r b) : EqvGen r a b :=
-  @Quotient.exact _ (EqvGen.setoid r) a b (congrArg
-    (Quot.lift (Quotient.mk (EqvGen.setoid r)) (fun x y h ↦ Quot.sound (EqvGen.rel x y h))) H)
+theorem Quot.eqvGen_exact : ((· = ·) on Quot.mk r) ≤ EqvGen r :=
```
Comment (Vierkantor) [inline Mathlib/Logic/Relation.lean]: Similarly here.

File: Mathlib/Order/Basic.lean [hunk 7]
```diff
@@ -1079,10 +1076,6 @@ end PUnit
 
 section «Prop»
 
-/-- Propositions form a complete Boolean algebra, where the `≤` relation is given by implication. -/
-instance Prop.le : LE Prop :=
-  ⟨(· → ·)⟩
-
 @[simp]
 theorem le_Prop_eq : ((· ≤ ·) : Prop → Prop → Prop) = (· → ·) :=
   rfl
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean]: Tihs theorem should move with the instance, same for `Pi`

File: Mathlib/Logic/Relation.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: > we don't want to spell `Function.Injective` as `((· = ·) on f) ≤ (· = ·)` either.

OTOH we are spelling `∀ s ∈ l₂, f ⁻¹' s ∈ l₁` as `l₁.map f ≤ l₂` (in `Filter.Tendsto`).
Similarly here I don't see why `Setoid.ker f ≤ r` is a bad way to spell it. What's your take on `Setoid.ker`? If I use it will it qualify as "a single relation"?

Edit: btw, I agree on all the cases you've pointed out, but I disagree about `Function.Injective`. Strange. Although I do think `Setoid.ker` is worth a shot.

**Review by joneugster — COMMENTED** [review]
@SnirBroshi I'm a bit confused about the state of this PR.

Moving the instances + lemmas to `Mathlib/Order/Defs/Prop.lean` seems desirable, but I can't find the source where all the other changes are coming from. (is that move the only relevant change, or did I overlook something?)

Could you have a look if the PR needs updating? merging master, updating title + description, minimising diff where the changes are purely stylistic (although I prefer `<|` too, I think we ought to hold ourself back with changes which are only changing style)

**Comment by SnirBroshi** [comment]
I found ~10 lines that got caught in the turmoil and indeed no longer need changing (the `<|` places previously needed other fixes), but it seems minor, most of the changes do need to happen.

> (is that move the only relevant change, or did I overlook something?)

Wdym, what about the PR title and description? The major change is the spelling, that's what this PR is about.
Modules other than `Logic/Relation` mostly got hit by the binder change that's caused by it.

File: Mathlib/Logic/Relation.lean [hunk 8]
```diff
@@ -428,8 +430,8 @@ theorem trans (hab : ReflTransGen r a b) (hbc : ReflTransGen r b c) : ReflTransG
   | refl => assumption
   | tail _ hcd hac => exact hac.tail hcd
 
-theorem single (hab : r a b) : ReflTransGen r a b :=
-  refl.tail hab
+theorem single : r ≤ ReflTransGen r :=
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: I don't think this should be stated as `r ≤ ReflTransGen r`, what we had before was fine (to match `TransGen.single`).

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: If you think that the `r ≤ ReflTransGen r` is also important enough you can also add another theorem stating this.

**Comment by joneugster** [comment]
> Wdym, what about the PR title and description?

Thank you for updating the PR! Title and description is fine. Last time I couldn't quite tell if it was title/description or content which was outdated but you've cleaned it up nicely. Sorry if that caused confusion.

File: Mathlib/Logic/Relation.lean (hunk 8 above)
Comment (joneugster) [reply Mathlib/Logic/Relation.lean]: This comment might also apply to other statements in this file, like e.g. `to_reflTransGen`, doesn't it? 

Everything outside this file looks good to me, thanks!

File: Mathlib/Order/Defs/Prop.lean
Comment (eric-wieser) [inline Mathlib/Order/Defs/Prop.lean:1]: Could you split the creation of this file (and removal of the instances elsewhere) to its own PR?

Comment (SnirBroshi) [reply Mathlib/Order/Defs/Prop.lean:1]: #40658

(I don't want to add it as a dependency to avoid resetting the queue position, but this PR is off the queue for now anyway)

Comment (joneugster) [reply Mathlib/Order/Defs/Prop.lean:1]: I hope the dependent PR will be merged by next week, so this PR will be on my list to review (again) next week :)

File: Mathlib/Logic/Relation.lean [hunk 9]
```diff
@@ -280,22 +283,21 @@ lemma map_equivalence {r : α → α → Prop} (hr : Equivalence r) (f : α →
...
--- TODO: state this using `≤`, after adjusting imports.
-lemma map_mono {r s : α → β → Prop} {f : α → γ} {g : β → δ} (h : ∀ x y, r x y → s x y) :
-    ∀ x y, Relation.Map r f g x y → Relation.Map s f g x y :=
+lemma map_mono {r s : α → β → Prop} {f : α → γ} {g : β → δ} (h : r ≤ s) :
+    Relation.Map r f g ≤ Relation.Map s f g :=
   fun _ _ ⟨x, y, hxy, hx, hy⟩ => ⟨x, y, h _ _ hxy, hx, hy⟩
 
-lemma le_onFun_map {r : α → α → Prop} (f : α → β) : Subrelation r (Relation.Map r f f on f) := by
-  intro
+lemma le_onFun_map {r : α → α → Prop} (f : α → β) : r ≤ (Relation.Map r f f on f) := by
```
Comment (vihdzp) [inline Mathlib/Logic/Relation.lean:290]: There's some extra parentheses here.

Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean:290]: I think `on` has terrible precedence so I'm not so sure

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean:290]: Yeah the parentheses are necessary, see also https://github.com/leanprover-community/mathlib4/pull/30526#discussion_r2724959330

File: Mathlib/Logic/Relation.lean [hunk 10]
```diff
@@ -76,19 +77,21 @@ theorem Std.Refl.ne_imp_iff [Std.Refl r] {x y : α} : x ≠ y → r x y ↔ r x
...
 @[deprecated (since := "2026-03-27")] alias reflexive_ne_imp_iff := Std.Refl.ne_imp_iff
 
-theorem refl_iff_subrelation_eq : Std.Refl r ↔ Subrelation Eq r := by
-  grind [Std.Refl, Subrelation]
+theorem refl_iff_eq_le : Std.Refl r ↔ Eq ≤ r := by
+  unfold Pi.hasLe Prop.le
+  grind [Std.Refl]
 
-@[deprecated (since := "2026-03-27")] alias reflexive_iff_subrelation_eq := refl_iff_subrelation_eq
+@[deprecated (since := "2026-04-23")] alias refl_iff_subrelation_eq := refl_iff_eq_le
```
Comment (joneugster) [inline Mathlib/Logic/Relation.lean]:
```suggestion
@[deprecated (since := "2026-06-23")] alias refl_iff_subrelation_eq := refl_iff_eq_le
```
(before merging, I'd be good to update these)

File: Mathlib/Logic/Relation.lean [hunk 11]
```diff
@@ -76,19 +77,21 @@ theorem Std.Refl.ne_imp_iff [Std.Refl r] {x y : α} : x ≠ y → r x y ↔ r x
...
 
-theorem irrefl_iff_subrelation_ne : Std.Irrefl r ↔ Subrelation r Ne := by
-  grind [Std.Irrefl, Subrelation]
+theorem irrefl_iff_le_ne : Std.Irrefl r ↔ r ≤ Ne := by
+  unfold Pi.hasLe Prop.le
+  grind [Std.Irrefl]
 
-@[deprecated (since := "2026-02-12")]
-alias irreflexive_iff_subrelation_ne := irrefl_iff_subrelation_ne
+@[deprecated (since := "2026-04-23")] alias irrefl_iff_subrelation_ne := irrefl_iff_le_ne
```
Comment (joneugster) [inline Mathlib/Logic/Relation.lean]:
```suggestion
@[deprecated (since := "2026-06-23")] alias irrefl_iff_subrelation_ne := irrefl_iff_le_ne
```
(before merging, I'd be good to update these)

File: Mathlib/Logic/Relation.lean (hunk 8 above)
Comment (joneugster) [reply Mathlib/Logic/Relation.lean]: @SnirBroshi I'm not sure I understand what the advantage of the new `single` is. Could you please explain your motivation? It seems that you just need to add a lot of `_ _` which were inferred automatically before, doesn't it?

(pasting this snipped how to infer the two from each other here, for convenience)

```lean4
theorem single' : r ≤ ReflTransGen r :=
  fun _ _ hab => single hab

theorem single (hab : r a b) : ReflTransGen r a b :=
  single' (r := r) a b hab
```

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: It's the same motivation for this entire PR: spelling `∀ a b, r a b → s a b` as `r ≤ s` is IMO much easier to reason about, and is the common spelling outside of this file.

Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean]: I think the `single` name made sense for the implication, and this should be called `le_reflTransGen` or similar

File: Mathlib/Logic/Relation.lean [hunk 12]
```diff
@@ -357,11 +359,11 @@ attribute [grind] TransGen
 
 namespace ReflGen
 
-theorem to_reflTransGen : ∀ {a b}, ReflGen r a b → ReflTransGen r a b
+theorem to_reflTransGen : ReflGen r ≤ ReflTransGen r
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: Can you also revert this change, as the name of this theorem does not indicate it would be spelled with `≤`

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: I disagree with reverting, do you have a better solution? e.g. renaming it to `le_reflTransGen`, or having two versions?
I think the current state is best, but maybe I'm missing something.

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: sure, renaming this theorem (and also `Relation.TransGen.to_reflTransGen` below) would also be an acceptable solution

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: having two versions is also fine

File: Mathlib/Logic/Relation.lean [hunk 13]
```diff
@@ -357,11 +359,13 @@ attribute [grind] TransGen
 
 namespace ReflGen
 
-theorem to_reflTransGen : ∀ {a b}, ReflGen r a b → ReflTransGen r a b
+theorem le_reflTransGen : ReflGen r ≤ ReflTransGen r
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: `Relation.ReflGen.le_reflTransGen` is sort of a weird name, since this is not a statement which is more "about" `ReflGen` than it is about `ReflTransGen`, can this be `Relation.reflGen_le_reflTransGen` instead? (same below for `transGen_le_reflTransGen`)

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: No, then we'll lose the dot-notation

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: When I have `h : Foo` and I see `h.le_bar` I'm expecting that to be a proof of `_ ≤ bar` taking `Foo` as an assumption, for example `Fin.le_last` or `LT.lt.le` or `GaloisConnection.le_iff_le`. But in this case we have `h : ReflGen r a b` and `h.le_reflTransGen` has type `ReflTransGen r a b`, which breaks that expectation, so I claim we shouldn't have this dot notation anyways.

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: That's why I said I think the previous state was the best, can I revert the rename?

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: in the previous state, there is no indication from the name that the lemma statement contains `≤`, which also breaks my expectation

Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: So what do you suggest?

Comment (plp127) [reply Mathlib/Logic/Relation.lean]: I would suggest just duplicating it

File: Mathlib/Logic/Relation.lean [hunk 14]
```diff
@@ -840,9 +850,8 @@ theorem church_rosser (h : ∀ a b c, r a b → r a c → ∃ d, ReflGen r b d 
     | refl => exact ⟨b, hea, hcb⟩
     | single hba => exact ⟨a, hea, hcb.tail hba⟩
 
-
-theorem join_of_single [Std.Refl r] (hab : r a b) : Join r a b :=
-  ⟨b, hab, refl b⟩
+theorem join_of_single [Std.Refl r] : r ≤ Join r :=
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: Can you rename this to something like `le_join_of_refl`?

File: Mathlib/Logic/Relation.lean [hunk 15]
```diff
@@ -871,13 +880,12 @@ theorem equivalence_join_reflTransGen
     Equivalence (Join (ReflTransGen r)) :=
   equivalence_join fun _ _ _ ↦ church_rosser h
 
-theorem join_of_equivalence {r' : α → α → Prop} (hr : Equivalence r) (h : ∀ a b, r' a b → r a b) :
-    Join r' a b → r a b
-  | ⟨_, hac, hbc⟩ => hr.trans (h _ _ hac) (hr.symm <| h _ _ hbc)
+theorem join_of_equivalence {r' : α → α → Prop} (hr : Equivalence r) (h : r' ≤ r) : Join r' ≤ r :=
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: Can you name this to something like `join_le_of_equivalence_of_le`?

File: Mathlib/Logic/Relation.lean [hunk 16]
```diff
@@ -871,13 +880,12 @@ theorem equivalence_join_reflTransGen
...
+  fun a b ⟨c, hac, hbc⟩ ↦ hr.trans (h a c hac) (hr.symm <| h b c hbc)
 
 theorem reflTransGen_of_isTrans_reflexive {r' : α → α → Prop} [Std.Refl r] [IsTrans α r]
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: Can you rename this to something like `reflTransGen_le_of_le`?

File: Mathlib/Logic/Relation.lean [hunk 17]
```diff
@@ -886,8 +894,8 @@ alias reflTransGen_of_transitive_reflexive := reflTransGen_of_isTrans_reflexive
   reflTransGen_of_transitive_reflexive
 
 theorem reflTransGen_of_equivalence {r' : α → α → Prop} (hr : Equivalence r) :
-    (∀ a b, r' a b → r a b) → ReflTransGen r' a b → r a b :=
-  @reflTransGen_of_isTrans_reflexive _ _ _ _ _ hr.stdRefl hr.isTrans
+    (r' ≤ r) → ReflTransGen r' ≤ r :=
```
Comment (plp127) [inline Mathlib/Logic/Relation.lean]: Can you rename this to something like `reflTransGen_le_of_equivalence_of_le`?

**Review by plp127 — APPROVED** [review]
There are still a few theorem names in `Logic/Relation` that don't make much sense to me, for example the `lift` and `closed` theorems for `TransGen` and `ReflTransGen`, but those are preexisting, and it's nothing I feel is worth further delaying this PR for, so:
maintainer merge?

File: Mathlib/GroupTheory/FreeGroup/Basic.lean [hunk 18]
```diff
@@ -322,11 +322,8 @@ theorem Step.sublist (H : Red.Step L₁ L₂) : L₂ <+ L₁ := by
 @[to_additive
 /-- If `w₁ w₂` are words such that `w₁` reduces to `w₂`, then `w₂` is a sublist of `w₁`. -/]
 protected theorem sublist : Red L₁ L₂ → L₂ <+ L₁ :=
-  @reflTransGen_of_isTrans_reflexive
-    _ (fun a b => b <+ a) _ _ _
-    ⟨List.Sublist.refl⟩
-    ⟨fun _a _b _c hab hbc => List.Sublist.trans hbc hab⟩
-    (fun _ _ => Red.Step.sublist)
+  @reflTransGen_le_of_le _ (fun a b => b <+ a) _ ⟨List.Sublist.refl⟩
+    ⟨fun _a _b _c hab hbc => List.Sublist.trans hbc hab⟩ (fun _ _ => Red.Step.sublist) L₁ L₂
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/FreeGroup/Basic.lean:326]: @SnirBroshi I'm not going to have you change it, but in the future please try to avoid mostly meaningless changes to the diff, as it increases review burden. It's not huge, but it adds up. The diff could have been smaller here.

**Review by j-loreaux — COMMENTED** [review]
Nice, thanks!

bors merge

File: Mathlib/GroupTheory/FreeGroup/Basic.lean (hunk 18 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/FreeGroup/Basic.lean:326]: I agree, and I considered it multiple times for this snippet, but given that I couldn't find any rhyme or reason to the newlines here and I had to remove existing arguments and add new ones, I don't think there was any other reasonable choice I could have made here.

Notice that I did not change stuff like `=>` to `↦`, or removed the `@` and use `(foo := bar)` syntax instead, removing the redundant `List.Sublist`s, etc.

Could you make a specific suggestion on this snippet you've highlighted?

File: Mathlib/Logic/Relation.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean:57]: Note that once lean4/lean4#14737 lands we can revert this change.
